US09102614B2
Preparation of 4-(2-methoxyphenyl)-3-methyl-butyryl chloride:
To a solution of 4-(2-methoxyphenyl)-3-methylbutyric acid (24 mmol, crude from previous reaction) in dichloromethane (36 mL) was added oxalyl chloride (2 M in DCM, 36 mL). The reaction was stirred for 1 h at room temperature. All volatiles were removed in vacuo and the crude residue used without further purification.

reactant | 4-(2-methoxyphenyl)-3-methylbutyric acid | 24 mmol | COC1=C(C=CC=C1)CC(CC(=O)O)C | C12H16O3
reactant | oxalyl chloride | 2 M, 36 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 36 mL | ClCCl | CH2Cl2
product | 4-(2-methoxyphenyl)-3-methyl-butyryl chloride | COC1=C(C=CC=C1)CC(CC(=O)Cl)C | C12H15ClO2
